US05557017
Into a 1 l four-necked flask equipped with a stirrer, a distillation apparatus-equipped refluxing condenser, a dropping funnel and a thermometer, 200 cc of methanol, 131 g of (1.1 mols) of 48% potassium hydroxide and 3 g of tetrabutylphosphonium bromide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 223 g (0.5 mol) of C6F13I was dropwise added thereto over a period of one hour. After completion of dropwise addition, heating and refluxing were continued for two hours. The conversion at that time was 97.0%. A fraction with a boiling point of up to 60° C. was recovered by distillation from the reactor. The recovered liquid was washed with 300 g of water to recover the fluorocarbon. Thus, 149 g of C6F13H having a purity of 99.9%, was obtained.

reactant | potassium hydroxide | 1.1 mols | [OH-].[K+]
reactant | C6F13I | 0.5 mol, 223 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C6F13I
catalyst | tetrabutylphosphonium bromide | 3 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | methanol | 200 cc | CO | CH4O
product | C6F13H | 149 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C6HF13
